US06924284B2
7,8-Dihydro-6H-1,4,5,8a-tetraaza-fluoren-9-one (0.53 mmol) was treated with hydrazine hydrate (3.0 mmol) in ethanol (3 mL) for 20 h at RT. Ethanol was removed under vacuum and the crude produce was purified by flash chromatography (MeOH/DCM/Et3N) to yield 8-(3-amino-propylamino)-6H-pyrazino[2,3-d]pyridazin-5-one.

reactant | 7,8-Dihydro-6H-1,4,5,8a-tetraaza-fluoren-9-one | 0.53 mmol | N1=CC=NC=2C3=NCCCN3C(C12)=O | C9H8N4O
reactant | hydrazine hydrate | 3.0 mmol | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 8-(3-amino-propylamino)-6H-pyrazino[2,3-d]pyridazin-5-one | NCCCNC1=NNC(C2=C1N=CC=N2)=O | C9H12N6O
